US07550478B2
3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridine-7-carbaldehyde (Compound 341)
3-chloro-7-(1,2-dihydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one (60 mg, 0.20 mmol) was dissolved in 1.8 mL of tetrahydrofuran and 0.9 mL water. Sodium periodate (51 mg, 0.24 mmol) was added and the reaction was stirred at room temperature for 1 hour. The reaction was then diluted with water and extracted with ethyl acetate three times. The combined organics were dried over magnesium sulfate, filtered, concentrated in vacuo, and purified via flash chromatography (silica, 10-100% ethyl acetate/hexanes) to afford the title compound. 1H NMR (600 MHz, CDCl3) δ 10.15 (s, 1H); 8.85 (d, 1H); 8.73 (d, 1H); 8.54 (d, 1H); 8.20 (dd, 1H); 7.75 (d, 1H); 7.47 (d, 1H); 7.31 (d, 1H).

reactant | 3-chloro-7-(1,2-dihydroxyethyl)-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | 0.20 mmol, 60 mg | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C(CO)O | C16H12ClNO3
reactant | Sodium periodate | 0.24 mmol, 51 mg | I(=O)(=O)(=O)[O-].[Na+]
solvent | tetrahydrofuran | 1.8 mL | O1CCCC1 | C4H8O
solvent | water | 0.9 mL | O | H2O
product | 3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridine-7-carbaldehyde | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)C=O | C15H8ClNO2
